US04748240
3-[4-[4-(2-Pyrazinyl)-1-piperazinyl]butyl]-3-azabicyclo[3.3.1]nonane-2,4-dione
1,3-Cyclohexane dicarboxylic acid (1.65 g., 9.6 mmole) was dissolved in 75 ml. of acetic anhydride and refluxed for 3 hours under N2. The solvent was removed in vacuum and replaced with 250 ml. of methylene chloride. 1-(4-Aminobutyl)-4-(2-pyrazinyl)piperazine (2.35 g., 10 mmole) was added and the mixture was stirred for 30 minutes at room temperature. The solvent was then replaced with 200 ml. xylene and the mixture was refluxed for 24 hours with water removal via a Dean-Stark trap. The product was concentrated to an oil in vacuum and column chromatographed in 100 g. silica gel with a gradient elution proceeding from methylene chloride to 5% isopropanol/methylene chloride. Evaporation of the relevant fractions gave 1.4 g. of the title compound, which was recrystallized from isopropanol with the addition of 4N isopropanolic HCl to give 900 mg. of monohydrochloride monohydrate; m.p. 226°-229° C.

reactant | 1,3-Cyclohexane dicarboxylic acid | 9.6 mmole, 1.65 g | C1(CC(CCC1)C(=O)O)C(=O)O | C8H12O4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(4-Aminobutyl)-4-(2-pyrazinyl)piperazine | 10 mmole, 2.35 g | NCCCCN1CCN(CC1)C1=NC=CN=C1 | C12H21N5
reactant | monohydrochloride monohydrate | O.Cl
solvent | water | O | H2O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 3-[4-[4-(2-Pyrazinyl)-1-piperazinyl]butyl]-3-azabicyclo[3.3.1]nonane-2,4-dione | N1=C(C=NC=C1)N1CCN(CC1)CCCCN1C(C2CCCC(C1=O)C2)=O | C20H29N5O2
